Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall off roof.
 
Major Surgical or Invasive Procedure:
___: External fixator for right pilon fracture, closed 
reduction percutaneous pinning of left distal radius fracture.

 
History of Present Illness:
___ year old otherwise healthy male was climbing a ladder to 
assess the damage seen on the roof of a house when the ladder 
slipped and he fell ~10 feet onto the ground. He felt immediate 
pain and inability to bear weight. He was subsequently brought 
via fire and ambulance to ___ where 
imaging was obtained revealing a Right distal tibia/fibula shaft 
fracture as well as a Left proximal humerus fracture and a Left 
distal radius fracture. He was subsequently transported in 
stable condition to ___ for further evaluation. 

 
Past Medical History:
HTN
Hyperlipidemia

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
On arrival:

PE:  
HR-114 otherwise AVSS
A&O x 3
Calm and comfortable 

RUE skin clean and intact
No tenderness, deformity, erythema, edema, induration or 
ecchymosis
Arms and forearms are soft
No pain with passive motion
R M U ___
EPL FPL EIP EDC FDP FDI fire
2+ radial pulses

LUE skin intact w/ tenderness about the shoulder and wrist. 
Deformity appreciated about the wrist. 
Arms and forearms are soft
Pain with passive motion of the shoulder and wrist. Elbow shows 
normal ROM
R M U ___
EPL FPL EIP EDC FDP FDI fire
2+ radial pulses

RLE skin intact w/ tenderness about the leg with obvious 
deformity. Mild ecchymosis appreciated. 
Thighs and legs are soft
No pain with passive motion of the great toe
Saph Sural DPN SPN MPN LPN ___ FHL ___ TA PP Fire
1+ ___ and DP pulses

LLE skin clean and intact
No tenderness, deformity, erythema, edema, induration or 
ecchymosis
Thighs and legs are soft
No pain with passive motion
Saph Sural DPN SPN MPN LPN ___ FHL ___ TA PP Fire
1+ ___ and DP pulses

At discharge:

Patient is alert and oriented in no acute distress

LUE is in a sling and splint, clean and dry.  Sensation intact 
in median ulnar and radial distributions, EPL FPL intrinsics and 
opponens fire.  fingers warm and well perfused.

RLE with Ex-fix inplace, pin sites are slightly blood stained 
but dry and not actively draining.  ___ FHL AT ___ fire, 
Sensation intact in DP SP S S T distributions, 2+ DP pulse, toes 
warm and well perfused.
 
Pertinent Results:
On admission:

___ 06:11PM BLOOD WBC-10.6 RBC-4.33* Hgb-13.9* Hct-39.8* 
MCV-92 MCH-32.1* MCHC-34.9 RDW-12.6 Plt ___
___ 06:11PM BLOOD ___ PTT-30.8 ___
___ 06:11PM BLOOD ___ 06:11PM BLOOD UreaN-19 Creat-1.1
___ 06:11PM BLOOD Lipase-26
___ 06:11PM BLOOD ASA-7.2 Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:16PM BLOOD Glucose-79 Na-141 K-4.0 Cl-107 calHCO3-21

___:  CT scan right lower extremity:

IMPRESSION:  Comminuted fractures of the distal tibia and fibula 
as described above with tibial fracture lines extending into the 
mortise joint. 

___: Plain films of left wrist:

Interval improvement in alignment of comminuted distal radial 
fracture with mild persistent displacement of fracture 
fragments.  Interval improvement in alignment of the ulnar 
styloid fracture. 

___:  Plain films of left shoulder:

IMPRESSION: 
  
Comminuted, impacted and mildly displaced fracture of the left 
proximal 
humerus.  No acute fracture or dislocation within the elbow. 

___ 05:00AM BLOOD WBC-5.8 RBC-3.09* Hgb-9.7* Hct-27.7* 
MCV-90 MCH-31.4 MCHC-35.0 RDW-12.3 Plt ___
___ 05:00AM BLOOD Plt ___
___ 05:00AM BLOOD Glucose-100 UreaN-9 Creat-0.9 Na-143 
K-3.6 Cl-106 HCO3-29 AnGap-12
___ 05:00AM BLOOD Calcium-8.2* Phos-3.1 Mg-2.2

___:  Right lower extremity fluroscopy:
Images from the operating suite show placement of external 
fixation 
device about comminuted fractures of the tibia and fibula.  
Further 
information can be gathered from the operative report 

___: Left upper extremity fluroscopy:
Images from the operating suite show reduction of the fracture 
of the distal radius.  Further information can be gathered from 
the operative report. 

 
Brief Hospital Course:
The patient was admitted to the orthopaedic surgery service on 
___ with right pilon fracture, left proximal humerus 
fracture, left distal radius fracture.  Patient was taken to the 
operating room and underwent external fixation of the right 
pilon fracture, and closed reduction percutaneous pinning of 
left distal radius.  Patient tolerated the procedure without 
difficulty and was transferred to the PACU, then the floor in 
stable condition. Please see operative report for full details.
 
Musculoskeletal:  prior to operation, patient was non weight 
bearing right lower extremity and left upper extremity.   After 
procedure, patient's weight-bearing status was kept the same.  
Throughout the hospitalization, patient worked with physical 
therapy.
 
Neuro: post-operatively, patient's pain was controlled by 
Dilaudid PCA and was subsequently transitioned to oxycodone with 
good effect and adequate pain control.
 
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
 
Hematology:  The patient was stable hemodynamically
 
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 
GI/GU:  A po diet was tolerated well. Patient was also started 
on a bowel regimen to encourage bowel movement. Intake and 
output were closely monitored.
 
ID: The patient received perioperative antibiotics.  The 
patient's temperature was closely watched for signs of 
infection.
 
Prophylaxis:  The patient received enoxaparin during this stay, 
and was encouraged to get up and ambulate as early as possible.
 
Patient wished to get the remainder of his surgeries in ___ 
closer to family, and it was decided to transfer his care to Dr. 
___ at ___.

At the time of discharge on ___, POD #13, the patient was 
doing well, afebrile with stable vital signs, tolerating a 
regular diet, voiding without assistance, and pain was well 
controlled.  The pin sites are clean, dry, and intact without 
evidence of erythema or drainage; the extremity was NVI distally 
throughout.  The patient was given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care.  The patient will be continued on chemical DVT 
prophylaxis for 2 weeks post-operatively.  All questions were 
answered prior to discharge and the patient expressed readiness 
for discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO DAILY 
2. Gemfibrozil 600 mg PO BID 
3. Losartan Potassium 50 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Docusate Sodium 100 mg PO BID 
3. Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 40mg injected daily Disp #*14 
Syringe Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN Pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth every 3 hours Disp 
#*90 Capsule Refills:*0
5. Senna 1 TAB PO BID 
6. Atorvastatin 10 mg PO DAILY 
7. Gemfibrozil 600 mg PO BID 
8. Losartan Potassium 50 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right pilon fracture, left proximal humerus, left distal radius.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You are medically cleared to discharge home by air ambulance.

******SIGNS OF INFECTION********
- Please return to the emergency department or notify MD if you 
should experience severe pain, increased swelling, decreased 
sensation, difficulty with movement; fevers >101.5, chills, 
redness or drainage at the incision site; chest pain, shortness 
of breath or any other concerns.
 
********Wound Care********
- Keep your Ex-fixator clean and completely dry until follow up.

- Your visiting will perform pin care for your ex-fixator, with 
xeroform.

- Keep your splint clean and dry until follow up.
 
******WEIGHT-BEARING*******
You are non weight bearing in the right lower extremity

You are non weight bearing in the left upper extremity.
 
******MEDICATIONS***********
- Resume your pre-hospital medications.
- You have been given medication for your pain control. Please 
do not operate heavy machinery or drink alcohol when taking this 
medication. As your pain improves please decrease the amount of 
pain medication. This medication can cause constipation, so you 
should drink ___ glasses of water daily and take a stool 
softener (colace) to prevent this side effect.
- Medication refills cannot be written after 12 noon on ___.
 
*****ANTICOAGULATION******
-  Take Lovenox for DVT prophylaxis for 2 weeks post-operatively
 
Physical Therapy:
Activity:  Activity as tolerated qid
 Right lower extremity:  Non weight bearing
 Left upper extremity:  Non weight bearing
Sling to LUE for comfort. ROMAT L elbow. 

Treatments Frequency:
Wound care: 
Site: RLE exfix 
Comment: pincare to RLE exfix pinsite with 50-50 solution of 
water-hydrogenperoxide BID starting POD1. 

 
Followup Instructions:
___